US03959260
21-Benzylthio-3α-hydroxy-5α-pregnane-11,20-dione
Toluene-α-thiol (1.0 ml.) was added to a warm solution of sodium (0.6 g.) in a mixture of propan-2-ol (25 ml.) and toluene (30 ml.). 21-Bromo-3α-hydroxy-5α-pregnane-11,20 -dione (0.7 g.) was then added and the mixture was gently refluxed for 2 hr. The mixture was then partitioned between water and ether and the organic layer was washed with water, dried (Na2SO4) and evaporated. The residue was purified by preparative t.l.c. (CHCl3) to give title compound (0.4 g.) as a white foam, [α]D + 89° (c 1.1).

reactant | Toluene-α-thiol | 1.0 ml | C1(=CC=CC=C1)CS | C7H8S
reactant | sodium | 0.6 g | [Na] | Na
reactant | 21-Bromo-3α-hydroxy-5α-pregnane-11,20 -dione | 0.7 g | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C21H31BrO3
solvent | propan-2-ol | 25 ml | CC(C)O | C3H8O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 21-Benzylthio-3α-hydroxy-5α-pregnane-11,20-dione | 0.4 g | C(C1=CC=CC=C1)SCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C28H38O3S
